US09303033B2
Synthesis of 5-((7-amino-5-(3-chlorophenylamino)pyrazolo[1,5-a]pyrimidin-3-yl)methylene)imidazolidine-2,4-dione
To the reaction vial, 7-amino-5-(3-chlorophenylamino)pyrazolo[1,5-a]pyrimidine-3-carbaldehyde (411 mg, 1.4 mmol) was added to ethanol (5.2 mL) along with hydantoin (143 mg, 1.4 mmol) and piperidine (141 μL, 1.4 mmol). The reaction was heated at 80° C. for 60 minutes in the microwave. The reaction was then cooled to room temperature and diluted with water. The solid was collected by filtration, washed with water and cold ethanol. The material was dried under vacuum overnight. The product, 5-((7-amino-5-(3-chlorophenylamino)pyrazolo[1,5-a]pyrimidin-3-yl)methylene)imidazolidine-2,4-dione, was recovered as a red solid in 54% yield. LCMS (M+1=370)

reactant | 7-amino-5-(3-chlorophenylamino)pyrazolo[1,5-a]pyrimidine-3-carbaldehyde | 1.4 mmol, 411 mg | NC1=CC(=NC=2N1N=CC2C=O)NC2=CC(=CC=C2)Cl | C13H10ClN5O
reactant | ethanol | 5.2 mL | C(C)O | C2H6O
reactant | hydantoin | 1.4 mmol, 143 mg | N1C(=O)NC(=O)C1 | C3H4N2O2
reactant | piperidine | 1.4 mmol, 141 μL | N1CCCCC1 | C5H11N
solvent | water | O | H2O
product | 5-((7-amino-5-(3-chlorophenylamino)pyrazolo[1,5-a]pyrimidin-3-yl)methylene)imidazolidine-2,4-dione | 54% yield | NC1=CC(=NC=2N1N=CC2C=C2C(NC(N2)=O)=O)NC2=CC(=CC=C2)Cl | C16H12ClN7O2
